US08071779B2
4-(4-Aminophenyl)-1,2,5-oxadiazol-3-amine
4-(4-Nitrophenyl)-1,2,5-oxadiazol-3-amine (0.500 g, 2.42 mmol), tin dichloride (1.61 g, 8.49 mmol), and water (0.306 mL, 17.0 mmol) were combined in ethyl acetate (20 mL) in a round bottom flask, and the mixture was stirred at room temperature overnight. The solvent was removed and methylene chloride was added, and the mixture was washed three times with aqueous NaOH. The organic phase was dried over MgSO4, filtered, and concentrated to afford the title compound as a yellow solid (400 mg, 94%).

reactant | 4-(4-Nitrophenyl)-1,2,5-oxadiazol-3-amine | 2.42 mmol, 0.500 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1C(=NON1)N | C8H6N4O3
reactant | tin dichloride | 8.49 mmol, 1.61 g | [Sn](Cl)Cl
reactant | water | 17.0 mmol, 0.306 mL | O | H2O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 4-(4-Aminophenyl)-1,2,5-oxadiazol-3-amine | 400 mg, 94% | NC1=CC=C(C=C1)C=1C(=NON1)N | C8H8N4O
